US05081141
Preparation of methyl α-(1H-1,2,4-triazol-1-yl)-4-chlorophenylacetate
A suspension of 3.2 g of 1,2,4-triazole and 8.3 g of K2CO3 in 300 ml of anhydrous acetone is refluxed over 1 hour. After cooling to 10° C., 14 g of methyl α-(methanesulphonyloxymethyl-4-chlorophenyl-acetate is added. The temperature is then allowed to spontaneously rise to room temperature, and the reaction mixture is stirred for one hour, is filtered over fritted glass and the filtrate is concentrated under vacuum, 13 g thus being obtained of raw solid product, which is suspended with 10 ml of 1:1 n-hexane+ethanol mixture.

reactant | 1,2,4-triazole | 3.2 g | N1N=CN=C1 | C2H3N3
reactant | K2CO3 | 8.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulphonyloxymethyl-4-chlorophenyl-acetate | CS(=O)(=O)OCOC(CC1=CC=C(C=C1)Cl)=O | C10H11ClO5S
reactant | n-hexane ethanol | 10 ml | CCCCCC.C(C)O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | methyl α-(1H-1,2,4-triazol-1-yl)-4-chlorophenylacetate | N1(N=CN=C1)C(C(=O)OC)C1=CC=C(C=C1)Cl | C11H10ClN3O2
